US08791267B2
(P-443): In an 8 mL vial equipped with a stir bar was placed 4-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-phenylamine (I-35) synthesized above (100 mg, 0.293 mmol), 2-bromothiazole (52.1 μL, 0.585 mmol), 10% aqueous ethanol (1.5 mL) and concentrated hydrochloric acid (48.8 μL, 0.585 mmol). The mixture was heated to 90° C. for 18 hours and then cooled to room temperature. After water (30 mL) and 5% aqueous potassium carbonate (30 mL) were added, the aqueous portion was extracted with ethyl acetate (2×35 mL) and the organic portions were combined, washed brine (30 mL), dried (magnesium sulfate) and concentrated. The crude material was purified by column chromatography utilizing 3% acetone/dichloromethane as the eluent to produce 57 mg of [4-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-phenyl]-thiazol-2-yl-amine. (P-443) as white solid in 45% yield. 1H NMR (400 MHz, CDCl3) δ 3.75 (s, 3H), 3.94 (s, 2H), 6.62 (d, J=4 Hz, 1H), 6.70 (dd, J=8, 1 Hz, 1H), 7.10 (t, J=9 Hz, 1H), 7.20-7.22 (m, 2H), 7.26-7.40 (m, 8H) ppm; MS (APCI+): 425.0 (M+1), LC-MS: 89%

reactant | 4-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-phenylamine | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC1=CC=C(C=C1)N)F | C20H17ClFNO
reactant | 2-bromothiazole | 0.585 mmol, 52.1 μL | BrC=1SC=CN1 | C3H2BrNS
reactant | hydrochloric acid | 0.585 mmol, 48.8 μL | Cl | ClH
reactant | potassium carbonate | 30 mL | C([O-])([O-])=O.[K+].[K+]
solvent | water | 30 mL | O | H2O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | [4-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-phenyl]-thiazol-2-yl-amine | 57 mg, 45% yield | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC1=CC=C(C=C1)NC=1SC=CN1)F | C23H18ClFN2OS
